US07157447B2
2-(2-(Methylthio)ethyl)-1,3-dioxolane.
A solution of 3-(methylthio)propanal (5.2 g, 0.05 mol) and ethyleneglycol (3.4 g. 0.055 mol) in 100 mL of benzene was treated with 300 mg p-toluenesulfonic acid and heated at reflux for 4 hrs. The solution was cooled and decanted. Concentration and drying in vacuo provided the title compound as a light yellow oil. 1H NMR (300 MHz, CDCl3) δ ppm: 4.93 (1H, t, J=4.76 Hz) 3.74–4.03 (4H, m) 2.46–2.68 (2H, m) 2.08 (3H, s) 1.83–2.00 (2H, m).

reactant | 3-(methylthio)propanal | 0.05 mol, 5.2 g | CSCCC=O | C4H8OS
reactant | ethyleneglycol | 0.055 mol, 3.4 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 300 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | 2-(2-(Methylthio)ethyl)-1,3-dioxolane | CSCCC1OCCO1 | C6H12O2S
